US05686445
N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]phenyl]-3-chlorobenzo[b]thiophene-2-carboxamide
As described for Example 9, 3-chlorobenzo[b]thiophene-2-carbonyl chloride is reacted with 5-(4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine to give the product. Recrystallization from dichloromethane-hexane gives crystals, m.p. 252°-254° C.

reactant | 3-chlorobenzo[b]thiophene-2-carbonyl chloride | ClC=1C2=C(SC1C(=O)Cl)C=CC=C2 | C9H4Cl2OS
reactant | 5-(4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine | NC1=CC=C(C(=O)N2C3=C(CC4=C(C2)C=CC=C4)C=CC=C3)C=C1 | C21H18N2O
product | N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]phenyl]-3-chlorobenzo[b]thiophene-2-carboxamide | C1=CC=CC=2N(CC3=C(CC21)C=CC=C3)C(=O)C3=CC=C(C=C3)NC(=O)C3=C(C2=C(S3)C=CC=C2)Cl | C30H21ClN2O2S
